data/rdb19/train.csv
rxn,smiles,ea
2885,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([H:24])[H:25])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])([H:10])[H:31].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],76.98250933078816
1911,[C:11]([O:12][O:13])([H:14])([H:15])[H:16].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([O:12])([H:14])([H:15])[H:16].[N:1]([C:2](=[O+:3][O-:13])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],65.34565774432849
3219,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])[H:35])([H:32])([H:33])[H:34]>>[C:1]([H:7])([H:8])[H:9].[C:21]([C:22](=[C:23]([H:24])[H:25])[c:26]1[c:27]([H:36])[c:28]([H:37])[c:29]([H:38])[c:30]([H:39])[c:31]1[H:40])([H:32])([H:33])[H:34].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])([H:11])[H:35],88.12992645107443
3292,[C:13]([C:14]([C:15]([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[C:15]([C:14]([C:13]([H:18])([H:19])[H:20])([H:21])[H:22])([C:16]([H:23])([H:24])[H:25])[C:17]([H:26])([H:27])[H:28].[C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12],61.527839393907925
698,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])[H:29])([H:26])([H:27])[H:28].[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[H:30],80.65712285588961
2655,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:25]([C:24]([O:23][C:21]([C:20]([H:26])([H:27])[H:28])=[O:22])[H:29])([H:30])[H:31],29.65526781964581
109,[C:12]([C:13](=[C:14]([H:21])[H:22])[C:15](=[O:16])[O:17][H:23])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:18])([H:19])[H:20])[C:15](=[O:16])[O:17][H:23])([H:21])[H:22])([H:6])([H:7])[H:8],15.473414239066187
633,[C:18]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:7]([H:17])[C:18]([H:19])([H:20])[H:21],62.301022197440034
3594,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23][c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:37])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],26.140423274307977
1596,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],17.342148952302523
3060,[C:16]([C:17]([C:18]([H:19])[H:20])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][C:18]([C:17]([C:16]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:19])[H:20],20.7272613637615
